US04053491
The ester oil of claim 1 being the triisopalmitic acid ester of trimethylolpropane, said isopalmitic acid being obtained by the oxidation of 2-hexyldecanol formed from n-octanol by the Guerbet synthesis.

reactant | trimethylolpropane | C(O)C(CC)(CO)CO | C6H14O3
reactant | isopalmitic acid | CC(C)CCCCCCCCCCCCC(=O)O | C16H32O2
product | 2-hexyldecanol | C(CCCCC)C(CO)CCCCCCCC | C16H34O
